US07687491B2
(7f) Ethyl 1-{2-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-4,5,6,7-tetrahydro-1-benzofuran-4-yl}azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1f) using 2-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-4,5,6,7-tetrahydro-1-benzofuran-4-ol (0.15 g, 0.45 mmol) that was obtained in Example 7 (7e), carbon tetrabromide (0.30 g, 0.90 mmol), triphenylphosphine (0.24 g, 0.90 mmol), ethyl 3-azetidinecarboxylate hydrochloride (0.11 g, 0.68 mmol), and N,N-diisopropylethylamine (0.20 ml, 1.1 mmol). Subsequently, the crude product of the title compound thus obtained was purified by thin layer chromatography on a silica gel plate using a mixed solvent of ethyl acetate and hexane (4:3) as the developing solvent to afford the title compound (27 mg) in a yield of 13% as a white crystalline solid.

reactant | 2-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-4,5,6,7-tetrahydro-1-benzofuran-4-ol | 0.45 mmol, 0.15 g | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1OC2=C(C1)C(CCC2)O | C20H22N2O3
reactant | carbon tetrabromide | 0.90 mmol, 0.30 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.90 mmol, 0.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 3-azetidinecarboxylate hydrochloride | 0.68 mmol, 0.11 g | Cl.N1CC(C1)C(=O)OCC
reactant | N,N-diisopropylethylamine | 1.1 mmol, 0.20 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | Ethyl 1-{2-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-4,5,6,7-tetrahydro-1-benzofuran-4-yl}azetidine-3-carboxylate | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1OC2=C(C1)C(CCC2)N2CC(C2)C(=O)OCC | C26H31N3O4
